US05892048
To a solution of 0.6 g of 5-(4-hydroxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole in 10 ml of dichloromethane at -70° C. was added 0.29 g of trifluoromethanesulfonic acid and 2.1 g of isobutene was bubbled in a few minutes. After 1 hour of stirring at the same temperature, triethyamine was added to the solution and then the reaction mixture was warmed gradually to room temperature. The reaction mixture was poured into iced water and the organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.55 g of 5-(4-t-butoxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole. nD22.8 1.5458

reactant | 5-(4-hydroxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.6 g | OC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H13ClFN3O
reactant | trifluoromethanesulfonic acid | 0.29 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | isobutene | 2.1 g | C=C(C)C | C4H8
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(4-t-butoxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.55 g | C(C)(C)(C)OC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C20H21ClFN3O
